US06583180B2
N-(2,4-difluorobenzyl)-N-(2-methyl-3-nitrophenyl)amine
2-Methyl-3-nitroaniline and 2,4-difluorobenzaldehyde were processed as described in Example 1C to provide the title compound.

reactant | 2-Methyl-3-nitroaniline | CC1=C(N)C=CC=C1[N+](=O)[O-] | C7H8N2O2
reactant | 2,4-difluorobenzaldehyde | FC1=C(C=O)C=CC(=C1)F | C7H4F2O
product | N-(2,4-difluorobenzyl)-N-(2-methyl-3-nitrophenyl)amine | FC1=C(CNC2=C(C(=CC=C2)[N+](=O)[O-])C)C=CC(=C1)F | C14H12F2N2O2
